// Generated for: spectre
// Generated on: May  1 10:31:48 2026
// Design library name: ESE6680_PROJECT3
// Design cell name: boot_tha_test
// Design view name: schematic
simulator lang=spectre
global 0
include "/lcars/home/e/ese6680/ami06.scs"

// Library name: ESE6680_PROJECT3
// Cell name: BOOT_THA
// View name: schematic
subckt BOOT_THA CLKS GND VDD VIN VOUT
    N7 (GND CLKS_ VY GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N6 (VY VDD VG GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 ps=6u \
        pd=6u m=1 region=sat
    N5 (CLKS_ CLKS GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N4 (VBOTT CLKS_ GND GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N3 (VOUT VG VIN GND) ami06N w=7.05u l=600n as=1.0575e-11 ad=1.0575e-11 \
        ps=17.1u pd=17.1u m=1 region=sat
    N2 (VIN VG VBOTT GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N1 (VBOTT VG VX GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    N0 (VX CLKS VBOTT GND) ami06N w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P4 (VOUT CLKS_ VIN VDD) ami06P w=19.05u l=600n as=2.8575e-11 \
        ad=2.8575e-11 ps=41.1u pd=41.1u m=1 region=sat
    P3 (VG VX VTOP VTOP) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P2 (VDD VG VTOP VTOP) ami06P w=1.5u l=600n as=2.25e-12 ad=2.25e-12 \
        ps=6u pd=6u m=1 region=sat
    P1 (VX CLKS VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    P0 (CLKS_ CLKS VDD VDD) ami06P w=3u l=600n as=4.5e-12 ad=4.5e-12 ps=9u \
        pd=9u m=1 region=sat
    C1 (VOUT GND) capacitor c=1p
    C0 (VTOP VBOTT) capacitor c=1p
ends BOOT_THA
// End of subcircuit definition.

// Library name: ESE6680_PROJECT3
// Cell name: boot_tha_test
// View name: schematic
I0 (CLKS 0 VDD VIN VOUT) BOOT_THA
V0 (VDD 0) vsource dc=5 type=dc
V1 (VIN 0) vsource dc=2.5 type=sine ampl=1.5 freq=1M
V2 (CLKS 0) vsource type=pulse val0=0 val1=5 period=100n rise=10p fall=10p \
        width=50n
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 scalem=1.0 scale=1.0 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
tran tran stop=5u write="spectre.ic" writefinal="spectre.fc" \
    annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
saveOptions options save=allpub
